US06103737
Part A: Anisole (2.16 g), n-butyllithium (2.5 M in hexanes, 4.0 mL), and dry ether (4.0 mL) were stirred 18 h at room temperature. Ether (5 mL) and tetrahydrofuran (SmL) were added to make a 0.47 M solution of 2-methoxyphenyllithium (21.12 mL), of which 0.47 mL was added to 2-chloro-4-methylpyrimidine (0.71 g, prepared as described by Strekowski et al (J. Heterocylic Chem. 27, 1393 (1990)) dissolved in dry ether (37 mL) and stirred 30 minutes at -30° C. and 2 hours at 0° C. The reaction was quenched with acetic acid (515 μL), water (36 μL) and tetrahydrofuran (5 mL). 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone (1.31 g) dissolved in tetrahydrofuran (5 mL) was added to the reaction which was then stirred 20 minutes. 1N Sodium hydroxide (aq.) (10 mL) was added at 0° C. and the reaction was washed with iN sodium hydroxide (3×10 mL). The organic layer was filtered through silica gel and concentrated to dryness to give 2-chloro-6-methyl-4-(2-methoxyphenyl)pyrimidine (0.72 g).

reactant | Anisole | 2.16 g | C1(=CC=CC=C1)OC | C7H8O
reactant | n-butyllithium | 2.5 M, 4.0 mL | C(CCC)[Li]
reactant | 2-methoxyphenyllithium | 21.12 mL | COC1=C(C=CC=C1)[Li]
reactant | 2-chloro-4-methylpyrimidine | ClC1=NC=CC(=N1)C | C5H5ClN2
solvent | ether | 37 mL | CCOCC | C4H10O
solvent | Ether | 5 mL | CCOCC | C4H10O
solvent | ether | 4.0 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-chloro-6-methyl-4-(2-methoxyphenyl)pyrimidine | 0.72 g | ClC1=NC(=CC(=N1)C1=C(C=CC=C1)OC)C | C12H11ClN2O
